US05883093
Step 1: 1-(diphenylmethyl)-3-methoxy-3-methylazetidine
A slurry of 1-diphenylmethyl)-3-methyl-3-azetidinol hydrochloride (5.00 g, 17.2 mmol) in dry tetrahydrofuran (200 mL) was cooled with an ice bath to 0° C. and treated with sodium hydride (2.10 g of a 60% dispersion in oil, 51.8 mmol) under nitrogen. The cooling bath was removed and the mixture warmed to reflux temperature for 15 min. After cooling to room temperature, iodomethane (7.40 g, 3.22 mL, 51.8 mmol) was added. When the addition was completed, the reaction mixture was heated to reflux temperature for 15 hours. TLC analysis (9:1 hexane/ethyl acetate) revealed the methylation to be complete. The reaction mixture was quenched with saturated aqueous ammonium chloride. The mixture was transferred to a separatory funnel with ethyl acetate and water and then extracted with ethyl acetate. The combined organic extracts were washed with water and brine, dried over sodium sulfate, filtered and concentrated under reduced pressure. The crude product was chromatographed over silica gel, eluting with 9:1 ethyl acetate/hexane. Concentration of appropriate fractions afforded 2.30 g (50%) of the title compound as a colorless oil with MS(EI) 267 (M+).

reactant | 3-methyl-3-azetidinol hydrochloride | 17.2 mmol, 5.00 g | Cl.CC1(CNC1)O
reactant | sodium hydride | [H-].[Na+]
reactant | iodomethane | 51.8 mmol, 3.22 mL, 7.40 g | IC | CH3I
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
reactant | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 1-(diphenylmethyl)-3-methoxy-3-methylazetidine | 2.30 g, 50% | C1(=CC=CC=C1)C(N1CC(C1)(C)OC)C1=CC=CC=C1 | C18H21NO
